US08207151B2
(2′R,4′R,6S,10R,13S)-2′-acetyl-2′,6,10,13-tetramethyl-7,8,10,12,13,14,15,16-octahydrospiro[cyclopenta[a]phenanthrene-17,4′-[1,3]dioxane]-3,5′(6H)-dione:
2-((6S,10R,13S)-17-hydroxy-6,10,13-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate is dissolved in toluene and heated with 1.5 equivalents of ethyl orthoacetate and a trace of pyridinium hydrochloride. Ethanol is distilled off the reaction mixture to drive it to completion.

reactant | 2-((6S,10R,13S)-17-hydroxy-6,10,13-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate | C(C)(=O)OCC(=O)C1(CCC2C3C[C@@H](C4=CC(C=C[C@@]4(C3=CC[C@]12C)C)=O)C)O | C24H30O5
reactant | ethyl orthoacetate | 1.5 equivalents | C(C)(OCC)([O-])[O-]
reactant | pyridinium hydrochloride | Cl.[NH+]1=CC=CC=C1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2′R,4′R,6S,10R,13S)-2′-acetyl-2′,6,10,13-tetramethyl-7,8,10,12,13,14,15,16-octahydrospiro[cyclopenta[a]phenanthrene-17,4′-[1,3]dioxane]-3,5′(6H)-dione | C(C)(=O)[C@@]1(OCC([C@@]2(O1)CCC1C3C[C@@H](C4=CC(C=C[C@@]4(C3=CC[C@@]12C)C)=O)C)=O)C | C26H32O5
